US05670505
Benzyl (2S)-2-[N-(tert-butoxycarbonyl)-N-benzylamino]-3-(2-naphthyl)propionate (10.5 g) was dissolved in methanol (100 ml) and aqueous 1N sodium hydroxide solution (20 ml) was added at ice-bath temperature. The mixture was stirred at room temperature overnight. The reaction mixture was poured into ice-water and extracted with diisopropyl ether. The aqueous layer was adjusted to pH 3 by adding dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave N-benzyl-N-(tert-butoxycarbonyl)-3-(2-naphthyl)-L-alanine (3.0 g).

reactant | Benzyl (2S)-2-[N-(tert-butoxycarbonyl)-N-benzylamino]-3-(2-naphthyl)propionate | 10.5 g | C(C)(C)(C)OC(=O)N(CC1=CC=CC=C1)[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1 | C32H33NO4
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | N-benzyl-N-(tert-butoxycarbonyl)-3-(2-naphthyl)-L-alanine | 3.0 g | C(C1=CC=CC=C1)N([C@@H](CC1=CC2=CC=CC=C2C=C1)C(=O)O)C(=O)OC(C)(C)C | C25H27NO4
